US07855194B2
4-Amino-3,5-diethoxy-benzaldehyde
To a solution of (4-amino-3,5-diethoxy-phenyl)-methanol (0.79 g, 3.74 mmol, 1.0 equiv) in DMF (20 mL) was added activated MnO2 (1.63 g, 18.70 mmol, 5.0 equiv). The reaction mixture was stirred for 24 h at rt, filtered through Hyflo Super Cel, the filtrate extracted with ethyl acetate (3×50 mL) and the combined organic phases dried over MgSO4 providing 0.69 g (88%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.46 (t, J=7.0 Hz, 3H), 4.15 (q, J=7.0 Hz, 2H), 4.50 (br s, 2H), 7.04 (s, 2H), 9.70 (s, 1H). MS (ISP): 210.0 [M+H]+.

reactant | (4-amino-3,5-diethoxy-phenyl)-methanol | 3.74 mmol, 0.79 g, 1.0 equiv | NC1=C(C=C(C=C1OCC)CO)OCC | C11H17NO3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | MnO2 | 18.70 mmol, 1.63 g, 5.0 equiv | O=[Mn]=O
product | 4-Amino-3,5-diethoxy-benzaldehyde | NC1=C(C=C(C=O)C=C1OCC)OCC | C11H15NO3
